US04262137
Preparation of isopropenyl hydrogen sebacate:
A 1-liter pressure vessel equipped with a magnetic stirrer, a thermocouple, a thermocontroller, a methyl acetylene reservoir tank, a pressure burette, a gas line, and a control valve, was flushed free of air with nitrogen and charged with 100 ml (1.04 moles) of N-methyl-2-pyrrolidone; 10.0 gm (0.0038 moles) of zinc acetylacetonate; 25.0 gm. (0.12 moles) sebacic acid; 11.0 gms (0.61 moles) water; 5.0 gm (0.093 moles) ammonium chloride; and 135 ml of MAPP gas (65 mole percent methyl acetylene and allene), and heated to 155° C. at a maximum pressure of 550 psi with stirring for about 14 hours. The reaction vessel was allowed to cool at room temperature and an aliquot removed. The aliquot was shaken with diethyl ether and water and the ether layer dried with magnesium sulphate and evaporated to dryness. An infrared spectrum of the dried product in carbon disulphide solution showed quantitative conversion to isopropenyl hydrogen sebacate. The IR spectrum was identical to that of a pure reference sample.

reactant | N-methyl-2-pyrrolidone | 1.04 moles, 100 ml | CN1C(CCC1)=O | C5H9NO
reactant | sebacic acid | 0.12 moles | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | water | 0.61 moles, 11.0 gms | O | H2O
reactant | ammonium chloride | 0.093 moles, 5.0 gm | [Cl-].[NH4+]
reactant | MAPP | 135 ml | CC#C.C=C=C | 2C3H4
catalyst | zinc acetylacetonate | 0.0038 moles, 10.0 gm | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Zn+2]
product | isopropenyl hydrogen sebacate | C(CCCCCCCCC(=O)O)(=O)OC(=C)C | C13H22O4
